US07446222B2
b) 2-Benzyloxy-5-chloro-5″-methanesulfonylamino-[1,1′;2′,1″]terphenyl-3″-carboxylic acid
2-Benzyloxy-5-chloro-5″-dimethanesulfonylamino-[1,1′;2′,1″]terphenyl-3″-carboxylic acid ethyl ester was dissolved in ethanol (5 ml) and 1M sodium hydroxide (1 ml, 1 mmol) and left at room temperature for 5 hours then heated at 50° C. for 1 hour. The resulting solution was diluted with water, acidified with 1M hydrochloric acid and extracted with diethyl ether. The organic phase was dried (MgSO4), evaporated to dryness and triturated with diethyl ether/iso-hexane to yield the title compound as a white solid. (21 mg, 46%).

reactant | 2-Benzyloxy-5-chloro-5″-dimethanesulfonylamino-[1,1′;2′,1″]terphenyl-3″-carboxylic acid ethyl ester | C(C)OC(=O)C=1C=C(C=C(C1)N(S(=O)(=O)C)S(=O)(=O)C)C=1C(=CC=CC1)C1=C(C=CC(=C1)Cl)OCC1=CC=CC=C1 | C30H28ClNO7S2
reactant | sodium hydroxide | 1 mmol, 1M, 1 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 2-Benzyloxy-5-chloro-5″-methanesulfonylamino-[1,1′;2′,1″]terphenyl-3″-carboxylic acid | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)Cl)C=1C(=CC=CC1)C1=CC(=CC(=C1)NS(=O)(=O)C)C(=O)O | C27H22ClNO5S
